US09102632B2
4.6 g (12.7 mM) of 5-bromo-3-[(4-chlorobenzyl)thio]-1-ethylpyrazin-2(1H)-one and 9.9 g (40 mM) of metachloroperbenzoic acid (70%) in 75 ml of dichloromethane were stirred for 10 min at room temperature. Aqueous 2M solution of sodium metabisulphite was added, the organic layer was separated and washed with an aqueous solution of hydrogenocarbonate, then with water and evaporated under vacuum. The residue was taken up in diisopropyle oxide. A solid was filtered and washed with diisopropyle oxide, to give 4.3 g of 5-bromo-3-[(4-chlorobenzyl)sulfonyl]-1-ethylpyrazin-2(1H)-one. Yield: 87%.

reactant | 5-bromo-3-[(4-chlorobenzyl)thio]-1-ethylpyrazin-2(1H)-one | 12.7 mM, 4.6 g | BrC=1N=C(C(N(C1)CC)=O)SCC1=CC=C(C=C1)Cl | C13H12BrClN2OS
reactant | metachloroperbenzoic acid | 40 mM, 9.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium metabisulphite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 5-bromo-3-[(4-chlorobenzyl)sulfonyl]-1-ethylpyrazin-2(1H)-one | 4.3 g, Yield: 87% | BrC=1N=C(C(N(C1)CC)=O)S(=O)(=O)CC1=CC=C(C=C1)Cl | C13H12BrClN2O3S
